US07291642B2
17a) 2,3-Dichloro-N-[2-(2-oxoimidazolidin-1-yl)ethyl]benzenesulphonamide
A solution of 0.5 g (2.04 mmol) of 2,3-dichlorobenzenesulphonyl chloride, 0.26 g (2.04 mmol) of 1-(2-aminoethyl)-2-imidazolidone and 1 ml (7.18 mmol) of triethylamine in 10 ml of tetrahydrofuran was stirred at room temperature overnight. The reaction mixture was then washed with 1 N HCl and saturated sodium bicarbonate solution, dried over sodium sulphate and concentrated. The product obtained in this manner was reacted further without additional purification.

reactant | 2,3-dichlorobenzenesulphonyl chloride | 2.04 mmol, 0.5 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 1-(2-aminoethyl)-2-imidazolidone | 2.04 mmol, 0.26 g | NCCN1C(NCC1)=O | C5H11N3O
reactant | triethylamine | 7.18 mmol, 1 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2,3-Dichloro-N-[2-(2-oxoimidazolidin-1-yl)ethyl]benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NCCN1C(NCC1)=O | C11H13Cl2N3O3S
